US07662831B2
A mixture of 3,3-dimethyl-N-quinolin-6-ylbutanamide (2.4 g), 5% platinum on carbon (0.15 g), trifluoroacetic acid (2.0 mL) and ethanol (50 mL) was hydrogenated at 45 PSI on a Parr shaker for 48 h. The reaction mixture was filtered through Celite® and the filtrate was concentrated. The crude solid was dissolved in ethyl acetate and washed carefully with saturated aqueous sodium bicarbonate. The organic layer was dried (MgSO4) and concentrated. The resulting oil was dissolved in ether and 4 N HCl was added. The solid was collected by filtration to yield 3,3-dimethyl-N-1,2,3,4-tetrahydroquinolin-6-ylbutanamide (2.1 g) as its HCl salt. MS (ES) m/z 247.2.

reactant | 3,3-dimethyl-N-quinolin-6-ylbutanamide | 2.4 g | CC(CC(=O)NC=1C=C2C=CC=NC2=CC1)(C)C | C15H18N2O
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | platinum on carbon | 0.15 g | [Pt] | Pt
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3,3-dimethyl-N-1,2,3,4-tetrahydroquinolin-6-ylbutanamide | 2.1 g | CC(CC(=O)NC=1C=C2CCCNC2=CC1)(C)C | C15H22N2O
